* AD629B--Typical values  SPICE Macro-model
* Description: Amplifier
* Generic Desc: Bipolar,  Diff Amp, Hi CMV to +/-270V
* Developed by: JG/ADI, TRW/ADI
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (11/2003)                                               
* Copyright 2000, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
*
* BEGIN Notes:
*
* Not Modeled:
*     vnoise, not included in this version
*     inoise, not included in this version
*     distortion is not characterized
*
* Parameters modeled include: 
*		Nominal Gain
*		CMRR vs. Frequency
*		Output Volatge Swing
*		Iquicent Swing
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is  non-static, will  vary with gain)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     cmrr is characterized in this version.
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | |  positive supply
*                | |  |  negative supply
*                | |  |  |  output 
*                | |  |  |  |   REF(-)
*                | |  |  |  |   |   REF(+)
*                | |  |  |  |   |   |
.SUBCKT ad629   20 10 99 98 70  1   5


***EXTERNAL RESISTORS( INTERNAL TO DEVICE)***

RF1 2 70 380E3
RG1 10  2 378.7E3
Rneg 2 1 21.11111E3
RG2 20 9 378.7063E3
RpoS 9 5 20E3

***input Stage***

Ccmmr 2 0 25E-14

***negative input right side***

Rc1 99 5a 2.54091E3
Q1 5a 2 7 QX

***positive input left side***

Rrc2 99 6a 2.54091E3
Q2 6a 9b 7 QX

***BIAS CURRENT SOURCE***

IEE 7 98 20E-6

***GAIN STAGE***

GM1  1ref 76   5a  6a  3.52E-4

***ZERO/POLE***

RG 76 1ref  8.52273E11

CPZ 76 1ref 5.6E-12

***ZERO/POLE ENDS***

***rail_to_rail clamps***

v1 99 13 1.600000
d1 76 13 dx
v2 12 98 2.210000
d2 12 76 dx

***rail_to_rail clamps ENDS***

***MID POINT REFERENCE RESISTORS***

Rref1 99   1mid 17E3
Rref2 1mid 98   17E3
Eref 1ref 0 1mid 0 1

***MID POINT REFERENCE RESISTORS ENDS***

***INPUT OFFSET VOLTAGE***

Vos 9b 9 .005E-3 

*** END OF INPUT OFFSET VOLTAGE***

***OUTPUT STAGE***

D17 76 84 DX 
VO1  84 70 .20300V
VO2  70 85 .20300V
D16 85 76  DX
G30 70 99 99 76  20E-3
G31 98 70 76 98  20E-3
RO30 70 99 50
RO31 98 70 50


.MODEL QX NPN ( VA=10000,BF=5000)
.MODEL DX D(IS=1E-12)
.ENDS







